US05811459
Methyl 4-[2-(2-hydroxyphenyl)ethyl]-3-fluorobenzoate was synthesised from methyl 4-(2-(2-benzyloxyphenyl) ethenyl]-3-fluorobenzoate using the hydrogenation method described in Example 1 (for the conversion of 4-[3-(2-benzyloxyphenyl)-3-carbonyl-1(E)-propenyl]-benzoate to methyl 4-[3-(2-hydroxyphenyl)-3-carbonylpropyl)benzoate but using ethanol as the reaction solvent).

reactant | methyl 4-(2-(2-benzyloxyphenyl) ethenyl]-3-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=C(C=C(C(=O)OC)C=C1)F | C23H19FO3
reactant | 4-[3-(2-benzyloxyphenyl)-3-carbonyl-1(E)-propenyl]-benzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(/C=C/C1=CC=C(C(=O)[O-])C=C1)=C=O
reactant | methyl 4-[3-(2-hydroxyphenyl)-3-carbonylpropyl)benzoate | OC1=C(C=CC=C1)C(CCC1=CC=C(C(=O)OC)C=C1)=C=O | C18H16O4
solvent | ethanol | C(C)O | C2H6O
product | Methyl 4-[2-(2-hydroxyphenyl)ethyl]-3-fluorobenzoate | OC1=C(C=CC=C1)CCC1=C(C=C(C(=O)OC)C=C1)F | C16H15FO3
